US07635700B2
To a stirred suspension of 2-chloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide (0.75 g, 2.1 mmol) in DMF (3 mL), was added dimethylamine in THF (3.6 mL, 2N, 7.2 mmol) at room temperature. After 2 days, sodium hydrogen carbonate (sat, 10 mL) and water (10 mL) were added to the mixture. After 1 hour, the suspension was filtered and washed with water (5 mL) to give a white solid. To the stirred suspension of above solid in methylene chloride (20 mL), was added HCl in ether (2 mL, 2N, 4 mmol) at room temperature. After 18 hours, the suspension was filtered and washed with methylene chloride (2×20 mL) to give 2-dimethylamino-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide hydrogen chloride as a white solid (0.72 g, 85% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, 2.50 min (62.2%) and 2.71 (37.7%); mp: 256-258° C.; 1H NMR (DMSO-d6) δ 2.21-2.28 (m, 1H, CHH), 2.61-2.70 (m, 2H, 2CHH), 2.73 (s, 3H, CH3), 2.88 (s, 6H, 2CH2), 2.93-3.00 (m, 1H, CHH), 4.40 (d, J=4 Hz, 2H, CH2), 5.44 (dd, J=6, 11 Hz, 1H, NCH), 7.45 (dd, J=1, 8 Hz, 1H, Ar), 7.88 (t, J=8 Hz, 1H, Ar), 8.46 (dd, J=1.8 Hz, 1H, Ar), 10.48 (brs, 1H, HCl), 11.11 (s, 1H, NH), 11.50 (brs, 1H, HCl), 11.86 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.57, 23.04, 30.52, 43.16, 56.83, 58.16, 107.98, 116.49, 120.95, 135.94, 138.34, 146.82, 155.92, 162.45 163.75, 169.02, 172.63; LCMS: MH=372; Anal Calcd for C18H21N5O4+1.8HCl+0.5H2O: C, 48.47; H, 5.38; N, 15.70; Cl, 14.31. Found: C, 48.34; H, 5.03; N, 15.39; Cl, 14.03.

reactant | 2-chloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide | 2.1 mmol, 0.75 g | ClCC(=O)NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C16H15ClN4O4
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 7.2 mmol, 2N, 3.6 mL | C1CCOC1 | C4H8O
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
reactant | HCl | Cl | ClH
reactant | ether | 4 mmol, 2N, 2 mL | CCOCC | C4H10O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 2-dimethylamino-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide hydrogen chloride | 0.72 g, 85% yield | Cl.CN(CC(=O)NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O)C | InChI=1S/C18H21N5O4.ClH/c1-10-19-11-5-4-6-12(20-15(25)9-22(2)3)16(11)18(27)23(10)13-7-8-14(24)21-17(13)26;/h4-6,13H,7-9H2,1-3H3,(H,20,25)(H,21,24,26);1H
